US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-isopropyl-1-methyl-1H-pyrazole-5-carboxamide
To a solution of 3-isopropyl-1-methyl-1H-pyrazole-5-carboxylic acid (144 mg, 0.86 mmol) in tetrahydrofuran (3.0 mL) were added N,N-dimethylformamide (30 μL, 0.39 mmol) and oxalyl chloride (75 μL, 0.86 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was added to a solution of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol) in N,N-dimethylacetamide (4.0 mL), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate to give the title compound (216 mg, 74%) as a white powder.

reactant | 3-isopropyl-1-methyl-1H-pyrazole-5-carboxylic acid | 0.86 mmol, 144 mg | C(C)(C)C1=NN(C(=C1)C(=O)O)C | C8H12N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.86 mmol, 75 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-isopropyl-1-methyl-1H-pyrazole-5-carboxamide | 216 mg, 74% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C(C)C)F)C1 | C24H24FN7O3
